* SDFRTND1 : abstract conversion of sky130_fd_sc_hd__sdfrtn_1
* 52 abstract devices (width -> parallel min-width fingers)
.subckt SDFRTND1 CLK_N D RESET_B SCD SCE VGND VPWR Q
XSDFRTND1B CLK_N D RESET_B SCD SCE VGND VGND VPWR VPWR Q SDFRTND1B
.ends SDFRTND1

.subckt SDFRTND1B CLK_N D RESET_B SCD SCE VGND VNB VPB VPWR Q
X0 a_1245_303# a_27_47# a_1592_47# VNB abnmos
X1 a_193_47# a_27_47# VPWR VPB abpmos
X2 a_193_47# a_27_47# VPWR VPB abpmos
X3 a_193_47# a_27_47# VPWR VPB abpmos
X4 a_1079_413# a_27_47# a_1187_47# VNB abnmos
X5 a_569_119# a_299_66# VGND VNB abnmos
X6 a_538_389# D a_620_389# VPB abpmos
X7 a_538_389# D a_620_389# VPB abpmos
X8 a_620_389# a_27_47# a_1079_413# VPB abpmos
X9 a_1592_47# a_27_47# a_1758_413# VPB abpmos
X10 a_1245_303# a_193_47# a_1592_47# VPB abpmos
X11 a_1758_413# a_1767_21# VPWR VPB abpmos
X12 a_1946_47# a_1592_47# a_1767_21# VNB abnmos
X13 a_620_389# a_193_47# a_1079_413# VNB abnmos
X14 a_1293_47# RESET_B VGND VNB abnmos
X15 Q a_1767_21# VGND VNB abnmos
X16 Q a_1767_21# VGND VNB abnmos
X17 a_1191_413# a_1245_303# VPWR VPB abpmos
X18 a_1946_47# RESET_B VGND VNB abnmos
X19 a_780_389# SCD VPWR VPB abpmos
X20 a_780_389# SCD VPWR VPB abpmos
X21 a_569_119# D a_620_389# VNB abnmos
X22 a_620_389# a_299_66# a_780_389# VPB abpmos
X23 a_620_389# a_299_66# a_780_389# VPB abpmos
X24 a_620_389# SCE a_817_66# VNB abnmos
X25 a_1245_303# a_1079_413# VPWR VPB abpmos
X26 a_1245_303# a_1079_413# VPWR VPB abpmos
X27 a_538_389# SCE VPWR VPB abpmos
X28 a_538_389# SCE VPWR VPB abpmos
X29 a_1079_413# a_193_47# a_1191_413# VPB abpmos
X30 a_1191_413# RESET_B VPWR VPB abpmos
X31 a_299_66# SCE VPWR VPB abpmos
X32 a_299_66# SCE VPWR VPB abpmos
X33 a_1187_47# a_1245_303# a_1293_47# VNB abnmos
X34 a_193_47# a_27_47# VGND VNB abnmos
X35 a_193_47# a_27_47# VGND VNB abnmos
X36 a_27_47# CLK_N VGND VNB abnmos
X37 a_27_47# CLK_N VGND VNB abnmos
X38 a_1767_21# RESET_B VPWR VPB abpmos
X39 a_1767_21# a_1592_47# VPWR VPB abpmos
X40 Q a_1767_21# VPWR VPB abpmos
X41 Q a_1767_21# VPWR VPB abpmos
X42 Q a_1767_21# VPWR VPB abpmos
X43 a_1592_47# a_193_47# a_1701_47# VNB abnmos
X44 a_27_47# CLK_N VPWR VPB abpmos
X45 a_27_47# CLK_N VPWR VPB abpmos
X46 a_27_47# CLK_N VPWR VPB abpmos
X47 a_299_66# SCE VGND VNB abnmos
X48 a_817_66# SCD VGND VNB abnmos
X49 a_1245_303# a_1079_413# VGND VNB abnmos
X50 a_1245_303# a_1079_413# VGND VNB abnmos
X51 a_1701_47# a_1767_21# VGND VNB abnmos
.ends SDFRTND1B
